US08258128B2
A round-bottomed flask, equipped with a magnetic stirrer, digital thermometer, addition funnel and a condenser with nitrogen inlet-outlet, is charged with diisopropylamine (462.9 mL) and tetrahydrofuran (4.2 L). The solution is cooled to −78° C. and n-butyl lithium (1.71 L, 1.6 M in hexane) is added over a period of 1 hour. After addition the reaction mixture is stirred for 1 hour and [7-Chloro-10-methoxy-3-thia-9-aza-benzo[f]azulen-(4Z)-ylidene]-acetic acid (350 g), dissolved in tetrahydrofuran (1.4 L), is added dropwise over 1 hour while maintaining the temperature at −70° C. Stirring is maintained for 1 hour at −78° C. Afterwards the yellow solution is transferred through a cold tube to a solution of hexachloroethane (779 g), dissolved in tetrahydrofuran (4.2 L), over a period of 45 min while maintaining the temperature at −25° C. The yellow solution is then allowed to slowly warm up to 0° C. over 30 min and kept at this temperature for 30 min. Then, deionized water (2.26 kg) is added over 5 min and the resulting emulsion concentrated under vacuum to remove the solvent. Then tert-butylmethylether (5.25 L) and water (3 L) are added. After vigorous stirring the organic phase is removed and replaced with isopropyl acetate (7 L). Then the mixture is acidified with phosphoric acid (339 L) to get a pH value of 2-3. Afterwards, the organic phase is separated and concentrated to 1/10, methanol (6.2 L) is added and the temperature raised to 65° C. over 40 min. The solution is distilled to a volume of 3.4 L, the resulting suspension cooled to −15° C. and stirred for 1 hour. The crystalline precipitation is collected by filtration, washed with cold methanol (500 mL) and dried under vacuum (50° C., 20-50 mmbar) to yield [2,7-Dichloro-10-methoxy-3-thia-9-aza-benzo[f]azulen-(4Z)-ylidene]-acetic acid with a melting point of 195-197° C.

reactant | diisopropylamine | 462.9 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.6 M, 1.71 L | C(CCC)[Li]
reactant | [7-Chloro-10-methoxy-3-thia-9-aza-benzo[f]azulen-(4Z)-ylidene]-acetic acid | 350 g | ClC1=CC2=C(/C(/C=3SC=CC3C(=N2)OC)=C/C(=O)O)C=C1 | C15H10ClNO3S
reactant | hexachloroethane | 779 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | tetrahydrofuran | 1.4 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.2 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.2 L | O1CCCC1 | C4H8O
solvent | water | 2.26 kg | O | H2O
product | [2,7-Dichloro-10-methoxy-3-thia-9-aza-benzo[f]azulen-(4Z)-ylidene]-acetic acid | ClC1=CC=2C(=NC3=C(/C(/C2S1)=C/C(=O)O)C=CC(=C3)Cl)OC | C15H9Cl2NO3S
